* Passing transistor-level reference using a differential comparator bank.
.subckt fa_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=1
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=1
.ends fa_inv

.subckt fa_nand2 a b y vdd vss
XP1 y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=1
XP2 y b vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=1
XN1 y a nx vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=1
XN2 nx b vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=1
.ends fa_nand2

.subckt fa_tg a b en enb vdd vss
XN a en b vss sky130_fd_pr__nfet_01v8 l=0.15 w=32 nf=8
XP a enb b vdd sky130_fd_pr__pfet_01v8 l=0.15 w=64 nf=16
.ends fa_tg

.subckt fa_nand4 a b c d y vdd vss
XP1 y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=1
XP2 y b vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=1
XP3 y c vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=1
XP4 y d vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=1
XN1 y a n1 vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=2
XN2 n1 b n2 vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=2
XN3 n2 c n3 vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=2
XN4 n3 d vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=2
.ends fa_nand4

.subckt fa_comp clk vinp vinn outp outn vdd vss
* StrongARM latch: outp/outn precharge high, outn falls when vinp > vinn
XTAIL tail clk vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=32 nf=8
XIN1 dx vinp tail vss sky130_fd_pr__nfet_01v8 l=0.18 w=16 nf=4
XIN2 dy vinn tail vss sky130_fd_pr__nfet_01v8 l=0.18 w=16 nf=4
XNL1 outn outp dx vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=2
XNL2 outp outn dy vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=2
XPL1 outn outp vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=2
XPL2 outp outn vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=2
XPC1 outn clk vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=2
XPC2 outp clk vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=2
XPC3 dx clk vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=2
XPC4 dy clk vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=2
.ends fa_comp

.subckt fa_sr sn rn q qb vdd vss
XG1 sn qb q vdd vss fa_nand2
XG2 rn q qb vdd vss fa_nand2
.ends fa_sr

.subckt flash4_xor a b y vdd vss
X1 a b n1 vdd vss fa_nand2
X2 a n1 n2 vdd vss fa_nand2
X3 b n1 n3 vdd vss fa_nand2
X4 n2 n3 y vdd vss fa_nand2
.ends flash4_xor

.subckt flash_adc_4bit clk dout3 dout2 dout1 dout0 vss vdd vinn vinp vrefn vrefp
* Differential threshold ladder, 112.5 mV steps from 0 to 1.8 V.
RL1 s1 vrefn 100
RL2 s2 s1 100
RL3 s3 s2 100
RL4 s4 s3 100
RL5 s5 s4 100
RL6 s6 s5 100
RL7 s7 s6 100
RL8 s8 s7 100
RL9 s9 s8 100
RL10 s10 s9 100
RL11 s11 s10 100
RL12 s12 s11 100
RL13 s13 s12 100
RL14 s14 s13 100
RL15 s15 s14 100
RL16 vrefp s15 100
* The external clock is the conversion clock; its inverse is the sample clock.
XCLK clk clks vdd vss fa_inv

* Shared differential top-plate track-and-hold.
XTGP vinp vhp clks clk vdd vss fa_tg
XTGN vinn vhn clks clk vdd vss fa_tg
CHP vhp s8 20p
CHN vhn s8 20p
R1PA vhp vp1 200k
R1PB s15 vp1 200k
R1NA vhn vn1 200k
R1NB s1 vn1 200k
XC1 clk vp1 vn1 cp1 cn1 vdd vss fa_comp
XS1 cn1 cp1 q1 qb1 vdd vss fa_sr
R2PA vhp vp2 200k
R2PB s14 vp2 200k
R2NA vhn vn2 200k
R2NB s2 vn2 200k
XC2 clk vp2 vn2 cp2 cn2 vdd vss fa_comp
XS2 cn2 cp2 q2 qb2 vdd vss fa_sr
R3PA vhp vp3 200k
R3PB s13 vp3 200k
R3NA vhn vn3 200k
R3NB s3 vn3 200k
XC3 clk vp3 vn3 cp3 cn3 vdd vss fa_comp
XS3 cn3 cp3 q3 qb3 vdd vss fa_sr
R4PA vhp vp4 200k
R4PB s12 vp4 200k
R4NA vhn vn4 200k
R4NB s4 vn4 200k
XC4 clk vp4 vn4 cp4 cn4 vdd vss fa_comp
XS4 cn4 cp4 q4 qb4 vdd vss fa_sr
R5PA vhp vp5 200k
R5PB s11 vp5 200k
R5NA vhn vn5 200k
R5NB s5 vn5 200k
XC5 clk vp5 vn5 cp5 cn5 vdd vss fa_comp
XS5 cn5 cp5 q5 qb5 vdd vss fa_sr
R6PA vhp vp6 200k
R6PB s10 vp6 200k
R6NA vhn vn6 200k
R6NB s6 vn6 200k
XC6 clk vp6 vn6 cp6 cn6 vdd vss fa_comp
XS6 cn6 cp6 q6 qb6 vdd vss fa_sr
R7PA vhp vp7 200k
R7PB s9 vp7 200k
R7NA vhn vn7 200k
R7NB s7 vn7 200k
XC7 clk vp7 vn7 cp7 cn7 vdd vss fa_comp
XS7 cn7 cp7 q7 qb7 vdd vss fa_sr
R8PA vhp vp8 200k
R8PB s8 vp8 200k
R8NA vhn vn8 200k
R8NB s8 vn8 200k
XC8 clk vp8 vn8 cp8 cn8 vdd vss fa_comp
XS8 cn8 cp8 q8 qb8 vdd vss fa_sr
R9PA vhp vp9 200k
R9PB s7 vp9 200k
R9NA vhn vn9 200k
R9NB s9 vn9 200k
XC9 clk vp9 vn9 cp9 cn9 vdd vss fa_comp
XS9 cn9 cp9 q9 qb9 vdd vss fa_sr
R10PA vhp vp10 200k
R10PB s6 vp10 200k
R10NA vhn vn10 200k
R10NB s10 vn10 200k
XC10 clk vp10 vn10 cp10 cn10 vdd vss fa_comp
XS10 cn10 cp10 q10 qb10 vdd vss fa_sr
R11PA vhp vp11 200k
R11PB s5 vp11 200k
R11NA vhn vn11 200k
R11NB s11 vn11 200k
XC11 clk vp11 vn11 cp11 cn11 vdd vss fa_comp
XS11 cn11 cp11 q11 qb11 vdd vss fa_sr
R12PA vhp vp12 200k
R12PB s4 vp12 200k
R12NA vhn vn12 200k
R12NB s12 vn12 200k
XC12 clk vp12 vn12 cp12 cn12 vdd vss fa_comp
XS12 cn12 cp12 q12 qb12 vdd vss fa_sr
R13PA vhp vp13 200k
R13PB s3 vp13 200k
R13NA vhn vn13 200k
R13NB s13 vn13 200k
XC13 clk vp13 vn13 cp13 cn13 vdd vss fa_comp
XS13 cn13 cp13 q13 qb13 vdd vss fa_sr
R14PA vhp vp14 200k
R14PB s2 vp14 200k
R14NA vhn vn14 200k
R14NB s14 vn14 200k
XC14 clk vp14 vn14 cp14 cn14 vdd vss fa_comp
XS14 cn14 cp14 q14 qb14 vdd vss fa_sr
R15PA vhp vp15 200k
R15PB s1 vp15 200k
R15NA vhn vn15 200k
R15NB s15 vn15 200k
XC15 clk vp15 vn15 cp15 cn15 vdd vss fa_comp
XS15 cn15 cp15 q15 qb15 vdd vss fa_sr
* Balanced thermometer-to-binary XOR encoder.
XB3A q8 b3n vdd vss fa_inv
XB3B b3n dout3 vdd vss fa_inv
X42 q4 q8 b2a vdd vss flash4_xor
X4C b2a q12 dout2 vdd vss flash4_xor
X21 q2 q4 b1a vdd vss flash4_xor
X22 q6 q8 b1b vdd vss flash4_xor
X23 q10 q12 b1c vdd vss flash4_xor
X24 b1a b1b b1d vdd vss flash4_xor
X25 b1c q14 b1e vdd vss flash4_xor
X26 b1d b1e dout1 vdd vss flash4_xor
X01 q1 q2 a1 vdd vss flash4_xor
X02 q3 q4 a2 vdd vss flash4_xor
X03 q5 q6 a3 vdd vss flash4_xor
X04 q7 q8 a4 vdd vss flash4_xor
X05 q9 q10 a5 vdd vss flash4_xor
X06 q11 q12 a6 vdd vss flash4_xor
X07 q13 q14 a7 vdd vss flash4_xor
X08 a1 a2 x1 vdd vss flash4_xor
X09 a3 a4 x2 vdd vss flash4_xor
X10 a5 a6 x3 vdd vss flash4_xor
X11 x1 x2 y1 vdd vss flash4_xor
X12 x3 a7 y2 vdd vss flash4_xor
X13 y1 y2 z1 vdd vss flash4_xor
X14 z1 q15 dout0 vdd vss flash4_xor
.ends flash_adc_4bit
